US06835739B2
A solution of 5-fluoro-2-nitrobenzoic acid (10.0 g, 54 mmol, 1.0 equiv), 2-amino-5-bromopyridine (12.2 g, 1.3 equiv), in 80 mL of pyridine was treated with phosphorous oxychloride (25.3 g, 3.0 equiv) for 30 min. The volatile was evaporated and the residue was redissolved into EtOAc, washed with 1N HCl, saturated aqueous NaHCO3 and saturated aqueous NaCl. The organic layer was dried over Na2SO4, filtered, and evaporated. The volatile was evaporated, and the product was triturated with diethyl ether to give N-(5-bromo-2-pyridinyl)-(2-nitro)-5-fluorophenylcarboxamide (12.5 g, 68%). MS found for C12H7BrFN3O3 (M+H)+: 340, 342.

reactant | 5-fluoro-2-nitrobenzoic acid | 54 mmol, 10.0 g, 1.0 equiv | FC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H4FNO4
reactant | 2-amino-5-bromopyridine | 12.2 g, 1.3 equiv | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | phosphorous oxychloride | 25.3 g, 3.0 equiv | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 80 mL | N1=CC=CC=C1 | C5H5N
product | N-(5-bromo-2-pyridinyl)-(2-nitro)-5-fluorophenylcarboxamide | 12.5 g, 68% | BrC=1C=CC(=NC1)NC(=O)C1=C(C=CC(=C1)F)[N+](=O)[O-] | C12H7BrFN3O3
